A transistor amplifier circuit  
*  
.tran 1e-5 2e-3  
*  
vin 1 0 0.0 ac 1.0 sin(0 1 1k)  
*  
ccouple 1 in 10uF 
rzin in 0 19.35k  
*  
aamp in aout gain_block  
.model gain_block gain (gain = -3.9 out_offset = 7.003)  
* 
rzout aout coll 3.9k 
rbig coll 0 1e12 
*  
.end
